US07511050B2
Step C: 3-(aminomethyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one hydrochloride
To the solution of benzyl [(5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)methyl]carbamate (0.30 g, 0.73 mmol) in methanol (20 mL) and 1 mL of conc. HCl was added 110% Pd/C under N2. The mixture was shaken under 30 PSI H2 for 3 hours. The reaction mixture was filtered through celite and concentrated to yield the desired product (210 mg, 92%). LCMS calculated for C12H18N7O(M+H): 276.2; found: 276.2.

reactant | benzyl [(5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)methyl]carbamate | 0.73 mmol, 0.30 g | O=C1C=2NC=NC2N(C=2N1C(=NN2)CNC(OCC2=CC=CC=C2)=O)CCCCC | C20H23N7O3
reactant | HCl | 1 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-(aminomethyl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one hydrochloride | 210 mg, 92% | Cl.NCC1=NN=C2N1C(C=1NC=NC1N2CCCCC)=O | InChI=1S/C12H17N7O.ClH/c1-2-3-4-5-18-10-9(14-7-15-10)11(20)19-8(6-13)16-17-12(18)19;/h7H,2-6,13H2,1H3,(H,14,15);1H
